US09056873B2
Preparation 31: 4,6-Dichloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1-methyl-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
To a mixture of (E)-2,6-dichloro-4-(((2,4-dimethoxybenzyl)imino)methyl)-5-fluoronicotinic acid (72.0 g, 186.5 mmol) in THF (700 mL) was added methyllithium (933.0 mL, 933.0 mmol) dropwise at −78° C. After the addition was complete, the solution was stirred for an additional 2 h. The reaction mixture was then acidified with 1N HCl to pH 6, heated to 50° C. for 7 h, and subsequently extracted with EtOAc. The organic layer was washed with brine and dried over anhydrous Na2SO4. The concentrated crude was purified by silica gel chromatography to give the title compound as a white solid (14 g, 15%). 1H NMR (CDCl3, 400 MHz) δ ppm 1.58 (d, J=6.8 Hz, 3H), 3.79 (s, 3H), 3.84 (s, 3H), 4.35 (d, J=14.4 Hz, 1H), 4.52 (q, J=6.8 Hz, 1H), 5.07 (d, J=14.4 Hz, 1H), 6.43-6.45 (m, 2H), 7.28 (d, J=9.2 Hz, 1H). [M+H] calc'd for C17H15Cl2FN2O3, 385. found, 385.

reactant | (E)-2,6-dichloro-4-(((2,4-dimethoxybenzyl)imino)methyl)-5-fluoronicotinic acid | 186.5 mmol, 72.0 g | ClC1=C(C(=O)O)C(=C(C(=N1)Cl)F)/C=N/CC1=C(C=C(C=C1)OC)OC | C16H13Cl2FN2O4
reactant | methyllithium | 933.0 mmol, 933.0 mL | C[Li]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 700 mL | C1CCOC1 | C4H8O
product | 4,6-Dichloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1-methyl-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 14 g, 15% | ClC1=NC(=C(C2=C1C(N(C2C)CC2=C(C=C(C=C2)OC)OC)=O)F)Cl | C17H15Cl2FN2O3
